US09326987B2
N-[5-[1-Methyl-4-(5-{[4-(1-methylethyl)-1-piperazinyl]methyl}-1,3,4-oxadiazol-2-yl)-1H-indazol-6-yl]-2-(methyloxy)-3-pyridinyl]methanesulfonamide
6-Bromo-1-methyl-4-(5-{[4-(1-methylethyl)-1-piperazinyl]methyl}-1,3,4-oxadiazol-2-yl)-1H-indazole (40 mg, 0.095 mmol), N-[2-(methyloxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-pyridinyl]methanesulfonamide (31.3 mg, 0.095 mmol), sodium carbonate (30.3 mg, 0.286 mmol) and 1,1-bis(diphenylphosphino)ferrocene palladium dichloride (6.98 mg, 9.54 μmol) were added to a microwave vial and dissolved in 1,4-dioxane (0.5 ml) and water (0.5 ml). The reaction mixture was heated under microwave irradiation at 110° C. for 15 mins. The reaction mixture was evaporated under a stream of nitrogen and the residual solid was dissolved in DMSO (1 ml), filtered through a frit and purified by Mass Directed Automated Preparative HPLC (Method B). The solvent was evaporated under a stream of nitrogen and the residue was dissolved in 1,4-dioxane (1 ml) and water (1 ml), frozen in a cardice bath and placed on the freeze-drier for 18 h to afford the title compound as a white solid (20 mg).

reactant | 6-Bromo-1-methyl-4-(5-{[4-(1-methylethyl)-1-piperazinyl]methyl}-1,3,4-oxadiazol-2-yl)-1H-indazole | 0.095 mmol, 40 mg | BrC1=CC(=C2C=NN(C2=C1)C)C=1OC(=NN1)CN1CCN(CC1)C(C)C | C18H23BrN6O
reactant | N-[2-(methyloxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-pyridinyl]methanesulfonamide | 0.095 mmol, 31.3 mg | COC1=NC=C(C=C1NS(=O)(=O)C)B1OC(C(O1)(C)C)(C)C | C13H21BN2O5S
reactant | sodium carbonate | 0.286 mmol, 30.3 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxane | 0.5 ml | O1CCOCC1 | C4H8O2
solvent | water | 0.5 ml | O | H2O
product | N-[5-[1-Methyl-4-(5-{[4-(1-methylethyl)-1-piperazinyl]methyl}-1,3,4-oxadiazol-2-yl)-1H-indazol-6-yl]-2-(methyloxy)-3-pyridinyl]methanesulfonamide | 20 mg | CN1N=CC2=C(C=C(C=C12)C=1C=C(C(=NC1)OC)NS(=O)(=O)C)C=1OC(=NN1)CN1CCN(CC1)C(C)C | C25H32N8O4S
